US07317037B2
2,6-Difluoroaniline (11.0 g, 85 mmol) in glacial acetic acid (50 mL) was added slowly to a stirred suspension of sodium perborate tetrahydrate (65 g, 422 mmol) in glacial acetic acid (250 mL) at 80° C. The temperature was maintained between 80-90° C. for 1 hour. The cooled reaction mixture was poured into water and extracted twice with diethyl ether, the combined organic layers were washed with a dilute solution of sodium bicarbonate, dried (MgSO4) and evaporated. The residue was purified by silica gel column chromatography (Hexane:THF, 9:1) and the product washed with hexane to afford 2,6-difluoronitrobenzene (7.0 g) which was used without further examination.

reactant | 2,6-Difluoroaniline | 85 mmol, 11.0 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | sodium perborate tetrahydrate | 422 mmol, 65 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | water | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 2,6-difluoronitrobenzene | 7.0 g | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
